US05679696
A solution of 3-cyclopentyloxy-4-hydroxybenzaldehyde (5.1 g) in dimethylformamide (50 mL) is treated with potassium carbonate (4.83 g) and potassium iodide (1.2 g) and the solution is heated at 70°-75° C. whilst difluorochloromethane is bubbled though it at a slow rate, during 5 hours. Water (100 mL) is added and the mixture is extracted with ethyl acetate (2×100 mL). The combined organic extracts are dried over magnesium sulfate and concentrated to give a brown oil. The oil is subjected to flash chromatography, eluting with a mixture of diethyl ether and pentane (1:4 v/v), to give 3-cyclopentyloxy-4-difluoromethoxybenzaldehyde, in the form of a pale yellow oil (4.7 g). [NMR (CDCl3): 9.92(s,1H);7.5-7.24(m,3H); 6.34°-5.96(t, 1H); 4.9(m, 1H);2.0-1.6(m,8H)].

reactant | 3-cyclopentyloxy-4-hydroxybenzaldehyde | 5.1 g | C1(CCCC1)OC=1C=C(C=O)C=CC1O | C12H14O3
reactant | potassium carbonate | 4.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.2 g | [I-].[K+]
reactant | difluorochloromethane | FC(Cl)F | CHClF2
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-cyclopentyloxy-4-difluoromethoxybenzaldehyde | C1(CCCC1)OC=1C=C(C=O)C=CC1OC(F)F | C13H14F2O3
